US06310099B1
N,N-dimethyl-5-acetyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetamide (30 g, 0.802 mol) is dissolved in HOAc (150 ml) and hydrogenated (55 psi) with a 10% Pd/C (1.5 g) catalyst for 8 hours. The catalyst is removed by filtration through Celite and the filtrate poured into water (500 ml) and EtOAc (500 ml). The organic layer is washed with water (750 ml), neutralized with saturated Na2CO3 solution (500 ml) and washed with brine (500 ml). Evaporation on a rotovap followed by trituration with hexanes gives N,N-dimethyl-5-ethyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetamide, m.p. 105-106°.

reactant | N,N-dimethyl-5-acetyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetamide | 0.802 mol, 30 g | CN(C(CC1=C(C=CC(=C1)C(C)=O)NC1=C(C(=CC(=C1F)F)F)F)=O)C | C18H16F4N2O2
solvent | HOAc | 150 ml | CC(=O)O | C2H4O2
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | N,N-dimethyl-5-ethyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetamide | CN(C(CC1=C(C=CC(=C1)CC)NC1=C(C(=CC(=C1F)F)F)F)=O)C | C18H18F4N2O
